US06340759B1
N-(2-Benzyloxyethyl)4-tributylstannylbenzenesulfonamide (0.92 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (0.42 g) were heated under reflux in the presence of tetrakistriphenylphosphinepalladium(0) (0.09 g) in xylene in nitrogen atmosphere for 45 min. After cooling, the reaction solution was filtered and concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol system). The resulting product was dissolved in ethyl acetate and extracted with 2N hydrochloric acid. The aqueous layer was washed with ethyl acetate, adjusted to pH 10 with a 8N aqueous solution of sodium hydroxide, and then extracted with ethyl acetate. The extract was washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, to give 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)sulfamoyl]phenyl}isoquinoline (0.34 g) as a pale brown oil.

reactant | N-(2-Benzyloxyethyl)4-tributylstannylbenzenesulfonamide | 0.92 g | C(C1=CC=CC=C1)OCCNS(=O)(=O)C1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 0.42 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.09 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)sulfamoyl]phenyl}isoquinoline | 0.34 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)S(NCCOCC1=CC=CC=C1)(=O)=O | C30H34N4O3S
